US07759337B2
Synthesis of N,4-dimethyl-3-(1-morpholinophthalazin-6-yl)benzamide
4-Methyl-3-(1-morpholinophthalazin-6-yl)benzoic acid (100 mg, 286 μmol) was dissolved in thionyl chloride (5.7 mL) and heated to 65° C. for 1 h. The reaction was then concentrated in vacuo, dissolved in tetrahydrofuran 99.9% (5.7 mL) and diisopropylethylamine (150 μL, 859 μmol) and methylamine, 2.0 m solution in THF (0.7 mL) were added. The reaction mixture was stirred for 3 h at ambient temperature. The reaction mixture was diluted with 50 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layers were washed 3 times with 50 mL of sodium bicarbonate (saturated, aqueous), dried over sodium sulfate, and concentrated via rotovap to give a crude product. After purification by chromatography, the title compound was obtained. Found MS (ES+): 363(M+H)+.

reactant | 4-Methyl-3-(1-morpholinophthalazin-6-yl)benzoic acid | 286 μmol, 100 mg | CC1=C(C=C(C(=O)O)C=C1)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C20H19N3O3
reactant | diisopropylethylamine | 859 μmol, 150 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine | CN | CH5N
solvent | thionyl chloride | 5.7 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N,4-dimethyl-3-(1-morpholinophthalazin-6-yl)benzamide | CNC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1)=O | C21H22N4O2
